* AD8667 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 5/16V, CMOS, OP, Low Noise, S SPLY, 2X
* Developed by: VW ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (04/2008)
* Copyright 2008, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: VSY=16V, T=25°C
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT AD8667          1   2   99  50  45
*
*
M1   4  7  8  8 PIX L=2E-6 W=5.371e-04
M2   6  2  8  8 PIX L=2E-6 W=5.371E-04
RD1  4 50 2.000E+04
RD2  6 50 2.000E+04
C1   4  6 2.84E-12	
I1  99  8 2.000E-05
V1   9  8 1.614E+00
D1   9 99 DX
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (83,98) 4.00E-05 1 1 1 1
IOS  1  2 1.00E-13
*
*
E1  72 98 POLY(2) (1,98) (2,98) 0 1.976E-02 1.976E-02
R10 72 73 3.979E+01
R20 73 98 3.183E-02
C10 72 73 2.8E-7
*
*
EPSY 21 98 POLY(1) (99,50) -14.226e+00 8.891E-01
RPS1 21 22 7.96E+03
RPS2 22 98 1.59E-01
CPS1 21 22 1.00E-06
*
*
VN1 80 98 0
RN1 80 98 21.50E-3
HN  81 98 VN1 1.924E+01
RN2 81 98 1
*
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6551
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) 5.8E-05 1.70E-7
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5
*
*
G1 98 30 (4,6) 3.641E-04
R1 30 98 1.00E+07
CF 30 31 3.86E-10
Ez  31 98 45 98 1
V3 32 30 3.104E+00
V4 30 33 0.544E+00
D3 32 97 DX
D4 51 33 DX
*
*
M5  45 46 99 99 POX L=2E-6 W=2.860E-04
M6  45 47 50 50 NOX L=2E-6 W=6.473E-04
EG1 99 46 POLY(1) (98,30) 7.386E-01 1
EG2 47 50 POLY(1) (30,98) 6.010E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=1.00E-05,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=1.00E-05,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=1.00E-05,VTO=-5.00E-01,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=3.100E-11)
*
*
.ENDS AD8667
*
*$




